US05981521
1,2,3,4-Tetrahydro-1-cyclobutyl-6,7-dimethoxyisoquinoline was prepared by a procedure analogous to that described in example 4 for 1,2,3,4-tetrahydro-1-cyclopropyl-6,7-dimethoxy- isoquinoline but substituting in the first step cyclobutylcarbonyl chloride for cyclopropyl- carbonyl chloride.

reactant | 1,2,3,4-tetrahydro-1-cyclopropyl-6,7-dimethoxy- isoquinoline | C1(CC1)C1NCCC2=CC(=C(C=C12)OC)OC | C14H19NO2
reactant | cyclobutylcarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | cyclopropyl- carbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 1,2,3,4-Tetrahydro-1-cyclobutyl-6,7-dimethoxyisoquinoline | C1(CCC1)C1NCCC2=CC(=C(C=C12)OC)OC | C15H21NO2
